US07666888B2
5-(2-Chlorophenyl)-4-{[3-(2-chlorophenyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(2-chlorophenyl)pyrrolidine oxalate (16.3 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (4.0 mg). MS (pos) m/z 387.0 (M+H).

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(2-chlorophenyl)pyrrolidine oxalate | 0.060 mmol, 16.3 mg | C(C(=O)O)(=O)O.ClC1=C(C=CC=C1)C1CNCC1
product | 5-(2-Chlorophenyl)-4-{[3-(2-chlorophenyl)pyrrolidin-1-yl]carbonyl}isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)C1=C(C=CC=C1)Cl | C20H16Cl2N2O2
